US04163112
Preparation of O-[4-(2,2-Dipropoxyethylthio)phenyl] N-Cyclopropylcarbamate
4-(2,2-Dipropoxyethylthio)phenol (0.05 mole) dissolved in benzene (10 ml) is charged into a glass reaction flask equipped with a mechanical stirrer. Cyclopropylisocyanate (0.06 mole) and triethylamine (3 drops) are then added, and the resulting mixture is stirred at room temperature for a period of about 6 hours. The mixture is then stripped of solvent and unreacted isocyanate to yield the desired product O-[4-(2,2-dipropoxyethylthio)phenyl] N-cyclopropylcarbamate as the residue.

reactant | 4-(2,2-Dipropoxyethylthio)phenol | 0.05 mole | C(CC)OC(CSC1=CC=C(C=C1)O)OCCC | C14H22O3S
reactant | Cyclopropylisocyanate | 0.06 mole | C1(CC1)N=C=O | C4H5NO
reactant | isocyanate | [N-]=C=O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | O-[4-(2,2-dipropoxyethylthio)phenyl] N-cyclopropylcarbamate | C1(CC1)NC(OC1=CC=C(C=C1)SCC(OCCC)OCCC)=O | C18H27NO4S
